US08207151B2
2-((6S,10R,13S)-17-hydroxy-6,10,13-trimethyl-3-oxo-6,7,8,10,12,13,14,15,16,17-decahydro-3H-cyclopenta[a]phenanthren-17-yl)-2-oxoethyl acetate:
(see Tetrahedron Letters, 2001, 42 (14): 2639-2642). Alternatively, methyl prednisolone 21-acetate is dissolved in a mixture of dimethylformamide and tetrahydrofuran and cooled in an ice bath. SO2 is bubbled into methanesulfonyl chloride and the mixture is added dropwise to the solution containing the solution of methyl prednisolone 21-acetate. The title product can then be isolated by standard aqueous workup.

reactant | methyl prednisolone 21-acetate | C[C@H]1C[C@H]2[C@@H]3CC[C@@]([C@]3(C[C@@H]([C@@H]2[C@@]4(C1=CC(=O)C=C4)C)O)C)(C(=O)COC(=O)C)O | C24H32O6
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-((6S,10R,13S)-17-hydroxy-6,10,13-trimethyl-3-oxo-6,7,8,10,12,13,14,15,16,17-decahydro-3H-cyclopenta[a]phenanthren-17-yl)-2-oxoethyl acetate | C(C)(=O)OCC(=O)C1(CCC2C3C[C@@H](C4=CC(C=C[C@@]4(C3=CC[C@]12C)C)=O)C)O | C24H30O5
